US05028604
To a solution of 2.0 g of 3-(1,2,3,4-tetrahydronaphthalen-2-ylacetyl)-L-thioproline ethyl ester prepared in Reference Example 17 in 23 ml of ethanol was added 37 ml of 1 N sodium hydroxide at room temperature, and the mixture was stirred at the same temperature. After 3 hours, ethanol was evaporated under reduced pressure. After the addition of 100 ml of water and washing with benzene, the water layer was acidified with the addition of diluted hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. After evaporation of the solvent under reduced pressure, the residue was treated with isopropyl ether to produce 1.5 g of colorless crystals of 3-(1,2,3,4-tetrahydronaphthalen-2-ylacetyl)-L-thioproline (yield: 82%).

reactant | 3-(1,2,3,4-tetrahydronaphthalen-2-ylacetyl)-L-thioproline ethyl ester | 2.0 g | C(C)OC([C@H]1NCSC1C(CC1CC2=CC=CC=C2CC1)=O)=O | C18H23NO3S
reactant | sodium hydroxide | 1 N, 37 ml | [OH-].[Na+]
solvent | ethanol | 23 ml | C(C)O | C2H6O
product | 3-(1,2,3,4-tetrahydronaphthalen-2-ylacetyl)-L-thioproline | yield: 82% | C1C(CCC2=CC=CC=C12)CC(=O)C1[C@H](NCS1)C(=O)O | C16H19NO3S
